US04410539
A solution of 3-methylbenzo[b]thiophene-5-carboxylic acid ethyl ester (14.44 g.) in dry ether (50 ml.) was added dropwise with stirring to a mixture of lithium aluminium hydride (5.32 g.) in dry ether (450 ml.) under an atmosphere of dry nitrogen. Sufficient heat was applied during the addition to maintain gentle reflux. The mixture was heated under reflux with stirring for 3 hours and then cooled. The excess of lithium aluminium hydride was decomposed by the cautious addition with stirring of water (5.3 ml.) followed by 5 N sodium hydroxide solution (5.3 ml.) and finally more water (16 ml.). The mixture was filtered and the filtrate was dried (Na2SO4) and evaporated to give an oil which crystallized on standing. The solid was crystallized from ether/petrol (b.p. 40°-60°) to give 5-hydroxymethyl-3-methylbenzo[b]thiophene (8.93 g.), m.p. 51°-53°.

reactant | 3-methylbenzo[b]thiophene-5-carboxylic acid ethyl ester | 14.44 g | C(C)OC(=O)C1=CC2=C(SC=C2C)C=C1 | C12H12O2S
reactant | lithium aluminium hydride | 5.32 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 5.3 ml | O | H2O
reactant | sodium hydroxide | 5 N, 5.3 ml | [OH-].[Na+]
reactant | water | 16 ml | O | H2O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 450 ml | CCOCC | C4H10O
product | 5-hydroxymethyl-3-methylbenzo[b]thiophene | 8.93 g | OCC1=CC2=C(SC=C2C)C=C1 | C10H10OS
